US04983600
N-[[[1-Azabicyclo[2.2.2]octan-3-yl]amino]carbonyl]-2-furancarboxamide
The above compound was prepared, following the procedure of Example 14b, from 3-aminoquinuclidine dihydrochloride (1.0 g, 5 mmol), 2-furoylurea (0.77 g, 5 mmol), and diisopropylethylamine (1.3 g, 10 mmol) in pyridine (20 ml). The product (0.58 g) was converted to the 1:1 succinate mp 156°-159° C.

reactant | 3-aminoquinuclidine dihydrochloride | 5 mmol, 1.0 g | Cl.Cl.NC1CN2CCC1CC2
reactant | 2-furoylurea | 5 mmol, 0.77 g | O1C(=CC=C1)C(=O)NC(=O)N | C6H6N2O3
reactant | diisopropylethylamine | 10 mmol, 1.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | succinate | C(CCC(=O)[O-])(=O)[O-]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-[[[1-Azabicyclo[2.2.2]octan-3-yl]amino]carbonyl]-2-furancarboxamide | N12CC(C(CC1)CC2)NC(=O)NC(=O)C=2OC=CC2 | C13H17N3O3
